US08535655B2
a) 2-phenyl-1,3-dioxan-5-yl carbonochloridate
Triphosgene (bis(trichloromethyl)carbonate (13.35 g, 45.0 mmol) was added under argon at room temperature to a solution of 1,3-O-benzylideneglycerol (18.02 g, 100.0 mmol) in dry CH2Cl2 (300 ml). The reaction mixture was cooled to −40° C. and a solution of pyridine (10.9 ml, 135.0 mmol) was added over 35 min under stirring. Upon completion of the addition the reaction mixture was stirred for 30 min at −40° C. Then it was allowed to warm to 0° C. over 60 min and subsequently warmed to rt over 3.5 h under stirring. The reaction product was used in the next step without any further purification

reactant | Triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | bis(trichloromethyl)carbonate | 45.0 mmol, 13.35 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1,3-O-benzylideneglycerol | 100.0 mmol, 18.02 g | C1C(COC(O1)C2=CC=CC=C2)O | C10H12O3
reactant | pyridine | 135.0 mmol, 10.9 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-1,3-dioxan-5-yl carbonochloridate | C(OC1COC(OC1)C1=CC=CC=C1)(=O)Cl | C11H11ClO4
